US08236826B2
Production of 1-(4-benzylpiperazin-1-yl)-3-(4-{5-(piperonylamino)pyridin-2-yloxy}phenyl)propane-1-one
3-[4-(5-aminopyridin-2-yloxy)phenyl]-1-(4-piperonylpiperazin-1-yl)propane-1-one (1.04 g, 2.5 mmol) was dissolved in methanol (25 mL). To the resulting solution was added piperonal (0.39 g, 2.63 mmol), and this solution was refluxed overnight. The resulting reaction solution was cooled with ice, and then sodium borohydride (0.28 g, 7.50 mmol) was added. The resulting solution was stirred for 2 hours at room temperature. This reaction solution was concentrated under reduced pressure. The residue was diluted with ethyl acetate, and washed with water, saturated sodium bicarbonate solution and brine. The organic layer was dried over anhydrous magnesium sulfate, and evaporated. The residue was then purified by silica gel column chromatography (ethyl acetate), to thereby yield 0.80 g of the title compound.

reactant | 3-[4-(5-aminopyridin-2-yloxy)phenyl]-1-(4-piperonylpiperazin-1-yl)propane-1-one | 2.5 mmol, 1.04 g | NC=1C=CC(=NC1)OC1=CC=C(C=C1)CCC(=O)N1CCN(CC1)CC1=CC=2OCOC2C=C1 | C26H28N4O4
reactant | piperonal | 2.63 mmol, 0.39 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | sodium borohydride | 7.50 mmol, 0.28 g | [BH4-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | 1-(4-benzylpiperazin-1-yl)-3-(4-{5-(piperonylamino)pyridin-2-yloxy}phenyl)propane-1-one | C(C1=CC=CC=C1)N1CCN(CC1)C(CCC1=CC=C(C=C1)OC1=NC=C(C=C1)NCC1=CC=2OCOC2C=C1)=O | C33H34N4O4
